US04636492
A mixed anhydride of Z-Phe-Gly-ALa-OH (0.41 g, 0.95 mmol) was prepared and coupled to H-LeuCH2Br.HBr substantially according to the procedure described for preparation of Z-Phe-Gly-Leu-CH2Cl, above. The resulting product was crystallized from ethyl acetate:hexane to yield 0.30 g. Product was recrystallized from the same solvents to yield 0.07 g, m.p. 135.5°-138° (dec.).

reactant | H-LeuCH2Br.HBr | N[C@@H](CC(C)C)C(=O)CBr.Br
reactant | Z-Phe-Gly-Leu-CH2Cl | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](CC(C)C)C(=O)CCl)C(=O)OCC1=CC=CC=C1 | C26H32ClN3O5
product | Z-Phe-Gly ALa-OH | 0.95 mmol, 0.41 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1.C[C@@H](C(=O)O)N | InChI=1S/C19H20N2O5.C3H7NO2/c22-17(23)12-20-18(24)16(11-14-7-3-1-4-8-14)21-19(25)26-13-15-9-5-2-6-10-15;1-2(4)3(5)6/h1-10,16H,11-13H2,(H,20,24)(H,21,25)(H,22,23);2H,4H2,1H3,(H,5,6)/t16-;2-/m00/s1
